US08058313B2
bis((E)-Styrylsulfonyl)methane
A solution of benzaldehyde (2 mmol) and carboxymethane-sulfonylmethanesulfonyl-acetic acid (1 mmol) in acetic acid (10 mL) was subjected to General Procedure 1, to yield the title compound in 77% yield. m.p. 128-130° C.

reactant | benzaldehyde | 2 mmol | C(C1=CC=CC=C1)=O | C7H6O
reactant | carboxymethane-sulfonylmethanesulfonyl-acetic acid | 1 mmol | C(=O)(O)CS(=O)(=O)CS(=O)(=O)CC(=O)O | C5H8O8S2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | bis((E)-Styrylsulfonyl)methane | 77% yield | C(=C\C1=CC=CC=C1)/S(=O)(=O)CS(=O)(=O)\C=C\C1=CC=CC=C1 | C17H16O4S2
